US08633207B2
To 2-(difluoro(5-fluoropyridin-2-yl)methyl)-8-(methylsulfonyl)quinazolin-4-ol (100 mg, 0.27 mmol) were added phosphoryl tribromide (1.25 g) and toluene (0.5 mL) and DIEA (0.094 mL, 0.54 mmol), and the mixture was heated at 100° C. for 20 min. The mixture was cooled and partitioned between EtOAc and saturated aq sodium bicarbonate. The organic layer was dried over sodium sulfate and concentrated under reduced pressure. To the residue was added a solution of 5-methyl-1H-pyrazol-3-amine (67 mg, 0.69 mmol) in DMF (3 mL) and the mixture was stirred at rt for 0.5 h. The crude mixture was purified by preparative HPLC (Phenomenex C-18 reverse phase column, eluting with a gradient of solvent B=0.05% HOAc/ACN and solvent A=0.05% HOAc/H2O) to afford 2-(difluoro(5-fluoropyridin-2-yl)methyl)-N-(5-methyl-1H-pyrazol-3-yl)-8-(methylsulfonyl)quinazolin-4-amine (72 mg, 69%). 1H NMR (300 MHz, DMSO-d6) δ ppm 2.21 (s, 3H) 3.47 (s, 3H) 6.14 (s, 1H) 7.83 (t, J=7.91 Hz, 1H) 7.97-8.09 (m, 2H) 8.44 (d, J=7.35 Hz, 1H) 8.68 (s, 1H) 9.03 (d, J=8.10 Hz, 1H) 11.11 (s, 1H) 12.24-12.36 (m, 1H); LC-MS (ESI) m/z 449 (M+H)+.

reactant | 2-(difluoro(5-fluoropyridin-2-yl)methyl)-8-(methylsulfonyl)quinazolin-4-ol | 0.27 mmol, 100 mg | FC(C1=NC2=C(C=CC=C2C(=N1)O)S(=O)(=O)C)(C1=NC=C(C=C1)F)F | C15H10F3N3O3S
reactant | phosphoryl tribromide | 1.25 g | P(=O)(Br)(Br)Br | Br3OP
reactant | DIEA | 0.54 mmol, 0.094 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-methyl-1H-pyrazol-3-amine | 0.69 mmol, 67 mg | CC1=CC(=NN1)N | C4H7N3
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(difluoro(5-fluoropyridin-2-yl)methyl)-N-(5-methyl-1H-pyrazol-3-yl)-8-(methylsulfonyl)quinazolin-4-amine | 72 mg, 69% | FC(C1=NC2=C(C=CC=C2C(=N1)NC1=NNC(=C1)C)S(=O)(=O)C)(C1=NC=C(C=C1)F)F | C19H15F3N6O2S
